US08957203B2
Preparation of 1-fluoro-6-methoxy-4-(2-methoxyethoxy)isoquinoline
To a solution of 1-chloro-6-methoxy-4-(2-methoxyethoxy)isoquinoline (560 mg, 2.092 mmol) in DMSO (5 mL) was added CsF (636 mg, 4.18 mmol) and heated to 140° C. for 2 hrs. LC/MS showed the desired product. The reaction was diluted with Ethylacteate and washed with water, and brine. The organic phase was collected, dried over MgSO4, and concentrated under vacuum to give the crude product as a reddish brown solid. The crude material was purified via silica gel chromatography (5-50% EtOAc:Hex) to give the product 1-fluoro-6-methoxy-4-(2-methoxyethoxy)isoquinoline (168 mg, 0.669 mmol, 32.0% yield) as a light yellow solid. MS: MS m/z 252.2(M++1).

reactant | 1-chloro-6-methoxy-4-(2-methoxyethoxy)isoquinoline | 2.092 mmol, 560 mg | ClC1=NC=C(C2=CC(=CC=C12)OC)OCCOC | C13H14ClNO3
reactant | CsF | 4.18 mmol, 636 mg | [F-].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-fluoro-6-methoxy-4-(2-methoxyethoxy)isoquinoline | FC1=NC=C(C2=CC(=CC=C12)OC)OCCOC | C13H14FNO3
